### PR TITLE
[Merged by Bors] - feat(Int/Units): a few lemmas about ℤˣ

### PR DESCRIPTION
**Pull request by ChrisHughes24**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Int/Units.lean [hunk 1]
```diff
@@ -34,6 +34,18 @@ theorem isUnit_eq_one_or {a : ℤ} : IsUnit a → a = 1 ∨ a = -1
...
+
+@[simp]
+theorem neg_units_ne_self (u : ℤˣ) : -u ≠ u := (units_ne_neg_self u).symm
+
+theorem units_ne_iff_eq_neg {u u' : ℤˣ} : u ≠ u' ↔ u = -u' := by
+  rcases units_eq_one_or u with rfl | rfl <;>
+  rcases units_eq_one_or u' with rfl | rfl <;>
+  decide
+
 theorem isUnit_iff {a : ℤ} : IsUnit a ↔ a = 1 ∨ a = -1 := by
```
Comment (tb65536) [inline Mathlib/Data/Int/Units.lean:49]: Can you move your lemmas after `isUnit_iff` so that it stays with `isUnit_eq_one_or`?

File: Mathlib/Data/Int/Units.lean [hunk 2]
```diff
@@ -34,6 +34,18 @@ theorem isUnit_eq_one_or {a : ℤ} : IsUnit a → a = 1 ∨ a = -1
...
 #align int.is_unit_eq_one_or Int.isUnit_eq_one_or
 
+@[simp]
+theorem units_ne_neg_self (u : ℤˣ) : u ≠ -u := by
+  rcases units_eq_one_or u with rfl | rfl <;> decide
+
+@[simp]
+theorem neg_units_ne_self (u : ℤˣ) : -u ≠ u := (units_ne_neg_self u).symm
+
+theorem units_ne_iff_eq_neg {u u' : ℤˣ} : u ≠ u' ↔ u = -u' := by
```
Comment (tb65536) [inline Mathlib/Data/Int/Units.lean:44]: Can you add `iff`-versions of these lemmas. I think the `iff` version of this lemma can be used to golf `isUnit_eq_or_eq_neg` below.

Comment (ChrisHughes24) [reply Mathlib/Data/Int/Units.lean:44]: I don't understand what you mean. This one already is an `iff`, and the others don't have an obvious `iff` version.

File: Mathlib/Data/Int/Units.lean (hunk 1 above)
Comment (ChrisHughes24) [reply Mathlib/Data/Int/Units.lean:49]: I moved `isUnit_eq_one_or` down so that all the lemmas about the `Units` type are together.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

File: Mathlib/Data/Int/Units.lean (hunk 2 above)
Comment (tb65536) [reply Mathlib/Data/Int/Units.lean:40]: Ah sorry, I meant to say `IsUnit`-versions.

Comment (tb65536) [reply Mathlib/Data/Int/Units.lean:40]: Something like this: #6952
